US04483986
To 50 ml. of dimethylsulfoxide (DMSO) was added 1.01 g. (0.021 m.) of 50% sodium hydride in oil. After the initial gas evolution ceased, 2.53 g. (0.0206 m.) of isopropylsulfonamide [prepared according to Duguet, Rec. Trav. Chim., 25, 215 (1906)] was added. The mixture was stirred under a calcium chloride drying tube for ten minutes after which time 4.90 g. (0.020 m.) of 3-fluoro-4-nitrobenzophenone was added, followed by 20 ml. of DMSO. After stirring for five hours at room temperature, the reaction solution was poured into a mixture of ice and 1N hydrochloric acid which was then extracted several times with ethyl acetate. The extracts were combined, washed with water, and dried over magnesium sulfate. The oil remaining after evaporation was triturated with isopropanol to give 6.65 g. (95% yield) of 3-(isopropylsulfonyl)amino-4-nitrobenzophenone as a yellow powder. Crystallization from isopropanol gave pale yellow needles, m.p. about 115°-116° C.

reactant | sodium hydride | [H-].[Na+]
reactant | isopropylsulfonamide | C(C)(C)S(=O)(=O)N | C3H9NO2S
reactant | 3-fluoro-4-nitrobenzophenone | FC=1C=C(C(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C13H8FNO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-(isopropylsulfonyl)amino-4-nitrobenzophenone | 95% yield | C(C)(C)S(=O)(=O)NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C16H16N2O5S
